US05028604
Colorless crystals of 1-{3-[(R)-(+)-1,2,3,4-tetrahydronaphthalen-2-ylacetyl]-D-thioprolyl}pyrrolidine were prepared in the same manner as in Example 25, except that (R)-(+)-1,2,3,4-tetrahydronaphthalen-2-ylacetic acid and 1-D-thioprolylpyrrolidine hydrochloride were used instead of 3-(indan-2-yl)propionic acid and 1-L-thioprolylpyrrolidine hydrochloride, respectively (yield: 59%).

reactant | (R)-(+)-1,2,3,4-tetrahydronaphthalen-2-ylacetic acid | C1[C@@H](CCC2=CC=CC=C12)CC(=O)O | C12H14O2
reactant | 1-D-thioprolylpyrrolidine hydrochloride | Cl.N1[C@@H](C(=O)N2CCCC2)CSC1
reactant | 3-(indan-2-yl)propionic acid | C1C(CC2=CC=CC=C12)CCC(=O)O | C12H14O2
reactant | 1-L-thioprolylpyrrolidine hydrochloride | Cl.N1[C@H](C(=O)N2CCCC2)CSC1
product | 1-{3-[(R)-(+)-1,2,3,4-tetrahydronaphthalen-2-ylacetyl]-D-thioprolyl}pyrrolidine | yield: 59% | C1[C@@H](CCC2=CC=CC=C12)CC(=O)C1[C@@H](NCS1)C(=O)N1CCCC1 | C20H26N2O2S
